US06903107B1
5a. Ethyl N-tert-butoxycarbonyl-3-cyclopropylamino-propanoate
The title compound was prepared from ethyl acrylate (1.09 ml, 10 mmol) and cyclopropylamine (0.69 ml, 10 mmol) according to Example 2a. Yield: 2.06 g (80%). ESI-MS: 258.2 (M+H)+, 202.2 (M+H—C4H8)+, 158.2 (M+H-Boc)+. Rf (silica gel; ethyl acetate/heptane, 1:4, v/v): 0.38.

reactant | ethyl acrylate | 10 mmol, 1.09 ml | C(C=C)(=O)OCC | C5H8O2
reactant | cyclopropylamine | 10 mmol, 0.69 ml | C1(CC1)N | C3H7N
reactant | H-Boc | C(=O)OC(C)(C)C | C5H10O2
solvent | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
product | Ethyl N-tert-butoxycarbonyl-3-cyclopropylamino-propanoate | C(C)(C)(C)OC(=O)N(CCC(=O)OCC)C1CC1 | C13H23NO4
